US07632857B2
[4-(2-Methoxy-pyrimidin-5-yl)-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
Procedure SS: To a stirred solution of (4-bromo-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone (100 mg, 0.297 mmol), sodium carbonate (94.4 mg, 0.890 mmol) and 2-Methoxy-5-pyrimidine boronic acid (230 mg, 1.48 mmol) in toluene (5 ml), water (1 ml) and ethanol (1.5 ml) under nitrogen was added Tetrakis (triphenylphosphine) palladium (0) (34.3 mg, 0.030 mmol). The reaction was then heated to reflux for 48 h. The reaction was allowed to cool and bound to a SCX-2 cartridge (5 g). The cartridge washed with two cartridge volumes of dimethylformamide and one volume of methanol. The product was eluted using 2M ammonia in methanol. The ammonia/methanol solution was evaporated on a Genevac HT4. The sample was further purified by prep-LCMS. The resulting acetonitrile/water fractions were combined and evaporated using a Genevac to give 51 mg of a colourless oil (47%). MS (ES+) 367.3

reactant | (4-bromo-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | 0.297 mmol, 100 mg | BrC1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C16H21BrN2O
reactant | sodium carbonate | 0.890 mmol, 94.4 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-Methoxy-5-pyrimidine boronic acid | 1.48 mmol, 230 mg | COC1=NC=C(C=N1)B(O)O | C5H7BN2O3
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 1 ml | O | H2O
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
catalyst | Tetrakis (triphenylphosphine) palladium (0) | 0.030 mmol, 34.3 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | [4-(2-Methoxy-pyrimidin-5-yl)-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | 51 mg, 47% | COC1=NC=C(C=N1)C1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C21H26N4O2
